US05006540
(a) N-Nitroso-tert.-butyl-cyclohexyl-amine
A mixture consisting of 13.2 ml of 10N hydrochloric acid, 50 ml of water, 18.8 g of tert.-butyl-cyclohexyl-amine and 17.9 g of sodium nitrite is heated at 90° C. for 3 hours. On cooling, a solid precipitates and is filtered off with suction. Yield: 16.3 g melting point: 87° C.

reactant | hydrochloric acid | 10N, 13.2 ml | Cl | ClH
reactant | tert.-butyl-cyclohexyl-amine | 18.8 g | C(C)(C)(C)NC1CCCCC1 | C10H21N
reactant | sodium nitrite | 17.9 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | N-Nitroso-tert.-butyl-cyclohexyl-amine | N(=O)N(C1CCCCC1)C(C)(C)C | C10H20N2O
